US07091214B2
Dimethyl 5-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentane-1-sulfonamide (0.26 g, 0.53 mmol) and pyridine-3-boronic acid (0.78 g, 0.63 mmol) were coupled according to the method described in Part J of Example 1. The reaction was heated at 100° C. for 31 hours, at which time additional palladium acetate (0.002 equivalent) was added. Heating was resumed for 14 hours, and then additional pyridine-3-boronic acid (0.3 equivalent) was added. The reaction was heated for another 22 hours. The work-up procedure used in Part F of Examples 125–135 was followed. The crude product was purified twice by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 80:20) and then triturated with ethyl acetate and isolated by filtration. The product was finally recrystallized from isopropanol, isolated by filtration, and dried for eight hours under high vacuum at 100° C. to provide 0.090 g of dimethyl 5-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]pentane-1-sulfonamide as a white powder, mp 159–160° C.

reactant | Dimethyl 5-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentane-1-sulfonamide | 0.53 mmol, 0.26 g | CC(CCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)(S(=O)(=O)N)C | C20H28BrN5O3S
reactant | pyridine-3-boronic acid | 0.63 mmol, 0.78 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | pyridine-3-boronic acid | 0.3 equivalent | N1=CC(=CC=C1)B(O)O | C5H6BNO2
catalyst | palladium acetate | 0.002 equivalent | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | dimethyl 5-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]pentane-1-sulfonamide | 0.090 g | CC(CCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)COCC)(S(=O)(=O)N)C | C25H32N6O3S
